US07888374B2
To 4-cyano-benzenesulfonyl chloride in dichloromethane (10 mL) was added amino-acetic acid methyl ester hydrochloride (250 mg, 2 mmol) and triethylamine (1.01 g, 10 mmol). The mixture was stirred for 20 min at r.t and was washed with water. The crude was triturated in methanol to give (4-cyano-benzenesulfonylamino)-acetic acid methyl ester (240 mg, 47%). This material was dissolved in NH3 in methanol (30 mL) followed by addition of Raney Ni (3 g). The mixture was hydrogenated under H2 (60 psi, 1 h, r.t) to provide the title compound (1:5, 230 mg).

reactant | 4-cyano-benzenesulfonyl chloride | C(#N)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | amino-acetic acid methyl ester hydrochloride | 2 mmol, 250 mg | Cl.COC(CN)=O
reactant | triethylamine | 10 mmol, 1.01 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (4-cyano-benzenesulfonylamino)-acetic acid methyl ester | 240 mg, 47% | COC(CNS(=O)(=O)C1=CC=C(C=C1)C#N)=O | C10H10N2O4S
